US07282501B2
Step C: 3-[4-(tert-Butyldiphenylsilanyloxy)-2-cyclohexylcarbamoyloxymethylphenyl]propionic acid tert-butyl ester
A 100 mL round bottomed flask under N2 were charged with 3-[4-(tert-butyldiphenylsilanyloxy)-2-hydroxymethylphenyl]propionic acid tert-butyl ester (3.0 g, 6.11 mmol), cyclohexylisocyanate (4.7 mL, 36.7 mmol), and anhydrous CH2Cl2 (25 mL). A 1.0 M HCl solution in ether (3.06 mL, 3.06 mmol) was added, and the reaction mixture was stirred at ambient temperature under a nitrogen atmosphere for 16 h. The mixture was diluted with CH2Cl2 (100 mL), washed with brine, dried (Na2SO4), and concentrated to a brown oil. This crude oil was purified using the Biotage medium pressure chromatography system (EtOAc:hexanes 5:95) to a colorless oil (3.1 g, 82%). 1H NMR (400 MHz, CDCl3) 1.08-1.24 (m, 1H), 1.26-1.40 (m, 11H), 1.56-1.62 (m, 2H), 1.68-1.72 (m, 2H), 2.41 (t, J=8.3 Hz, 2H), 2.80 (t, J=7.8 Hz, 2H), 3.47 (br s, 1H), 4.56 (br s, 1H), 4.95 (s, 2H), 6.57 (dd, J=8.3, 2.7 Hz, 1H), 6.80 (s, 1H), 6.87 (d, J=8.6 Hz, 1H), 7.33-7.44 (m, 6H), 7.69-7.72 (m, 4H). MS (ES) m/e 616 (M+1).

reactant | 3-[4-(tert-butyldiphenylsilanyloxy)-2-hydroxymethylphenyl]propionic acid tert-butyl ester | 6.11 mmol, 3.0 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO)=O | C30H38O4Si
reactant | cyclohexylisocyanate | 36.7 mmol, 4.7 mL | C1(CCCCC1)N=C=O | C7H11NO
reactant | HCl | 1.0 M | Cl | ClH
reactant | ether | 3.06 mmol, 3.06 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(tert-Butyldiphenylsilanyloxy)-2-cyclohexylcarbamoyloxymethylphenyl]propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)COC(NC1CCCCC1)=O)=O | C37H49NO5Si
